US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarboxamide from Example No. 166 (1.0 g), collidine (0.45 mL), and DMAP (60.0 mg) in 50 mL anhydrous DMF is cooled to 0° C. Methanesulfonyl chloride (0.25 mL) is added dropwise. The reaction is stirred at room temperature for approx. 2-3 h. Morpholine (0.34 mL) is added. The product is precipitated by addition of H2O. The crude product is adsorbed onto silica and chromatographed eluting with 2% MeOH in CH2Cl2. Fractions homogenous by TLC were combined and condensed to afford 352 mg of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CO)C=C1 | C18H15ClN2O3
reactant | collidine | 0.45 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Methanesulfonyl chloride | 0.25 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Morpholine | 0.34 mL | N1CCOCC1 | C4H9NO
catalyst | DMAP | 60.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 352 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O3
